US09056859B2
A solution of tert-butyl 4-[(5-cyano-6-fluoro-3,4-dihydro-1H-isochromen-1-yl)methyl]piperazine-1-carboxylate (110 mg, 0.29 mmol) in 10 mL of DCM was added 3 mL of 4N HCl/dioxane, then sirred at room temperature for 2 hours. The solvents was removed off under vacuum to afford 6-fluoro-1-(piperazin-1-ylmethyl)-3,4-dihydro-1H-isochromene-5-carbonitrile hydrochloride. 1H-NMR (400 MHz, MeOD) δ ppm 7.63˜7.66 (m, 1H), 7.25˜7.29 (m, 1H), 5.33˜5.30 (m, 1H), 4.25˜4.30 (in, 1H), 3.87˜3.97 (m, 2H), 3.72˜3.83 (m, 3H), 3.58˜3.68 (m, 6H), 3.07˜3.17 (m, 2H).

reactant | tert-butyl 4-[(5-cyano-6-fluoro-3,4-dihydro-1H-isochromen-1-yl)methyl]piperazine-1-carboxylate | 0.29 mmol, 110 mg | C(#N)C1=C2CCOC(C2=CC=C1F)CN1CCN(CC1)C(=O)OC(C)(C)C | C20H26FN3O3
reactant | HCl dioxane | 4N, 3 mL | Cl.O1CCOCC1
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 6-fluoro-1-(piperazin-1-ylmethyl)-3,4-dihydro-1H-isochromene-5-carbonitrile hydrochloride | Cl.FC1=C(C=2CCOC(C2C=C1)CN1CCNCC1)C#N | InChI=1S/C15H18FN3O.ClH/c16-14-2-1-12-11(13(14)9-17)3-8-20-15(12)10-19-6-4-18-5-7-19;/h1-2,15,18H,3-8,10H2;1H
